US09107946B2
A mixture of pyrrolidine (150 ml) and water (15 ml) was stirred at r.t. 1-[[3-chloro-4-(2,2-dibromoethenyl)phenyl]methyl]-pyrrolidine (crude, max. 44.70 mmol) was added to the mixture and subsequently, the mixture was stirred overnight at r.t. The solvent was evaporated, yielding 1-[[2-chloro-4-(1-pyrrolidinylmethyl)phenyl]acetyl]-pyrrolidine as a crude that was used as such in the next reaction step.

reactant | pyrrolidine | 150 ml | N1CCCC1 | C4H9N
reactant | 1-[[3-chloro-4-(2,2-dibromoethenyl)phenyl]methyl]-pyrrolidine | 44.70 mmol | ClC=1C=C(C=CC1C=C(Br)Br)CN1CCCC1 | C13H14Br2ClN
reactant | water | 15 ml | O | H2O
product | 1-[[2-chloro-4-(1-pyrrolidinylmethyl)phenyl]acetyl]-pyrrolidine | ClC1=C(C=CC(=C1)CN1CCCC1)CC(=O)N1CCCC1 | C17H23ClN2O
